US09145411B2
To a 100 mL flask, 5-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)furan-2-carbaldehyde (0.38 g, 0.0011 mol) and methanol (30 mL) were added and the solution cooled to 0° C. To the reaction mixture, manganese (IV) oxide (0.191 g, 0.0022 mol) and sodium cyanide (0.109 g, 0.0022 mol) were added at 0° C. The reaction mixture was stirred at 0° C. for 3 hours. The reaction mixture was diluted with ethyl acetate. The organic layer was washed with water, brine, dried over anhydrous sodium sulfate and was evaporated under reduced pressure to provide methyl 5-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)furan-2-carboxylate as a solid (0.35 g). 1H NMR (300 MHz, DMSO-d6): δ 9.19 (d, J=2.1 Hz, 1H), 8.29 (d, J=2.1 Hz, 1H), 7.62 (d, J=3.6 Hz, 1H), 7.54 (d, J=3.6 Hz, 1H), 4.84-4.10 (br s, 4H), 3.87 (s, 3H), 3.81 (t, J=4.8 Hz, 4H): LC-MS (ESI): Calculated mass: 374.0; Observed mass [M+H]+: 375.0 (RT=1.51 min).

reactant | 5-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)furan-2-carbaldehyde | 0.0011 mol, 0.38 g | ClC=1N=C(C2=C(N1)C=C(C=N2)C2=CC=C(O2)C=O)N2CCOCC2 | C16H13ClN4O3
reactant | methanol | 30 mL | CO | CH4O
reactant | sodium cyanide | 0.0022 mol, 0.109 g | [C-]#N.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | manganese (IV) oxide | 0.0022 mol, 0.191 g | [O-2].[Mn+4].[O-2]
product | methyl 5-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)furan-2-carboxylate | 0.35 g | ClC=1N=C(C2=C(N1)C=C(C=N2)C2=CC=C(O2)C(=O)OC)N2CCOCC2 | C17H15ClN4O4
